US04703046
A mixture of ethyl 2-methoxyimino-2-(2-chloropropionyl)acetate (16.0 g.), thiourea (8.2 g.), sodium acetate (8.9 g.), water (50 ml.) and ethanol (50 ml.) was stirred at 40° C. for 3 hrs. Ethanol was distilled off in vacuo from the reaction mixture. Diisopropyl ether was added to the aqueous solution and stirred. The resultant precipitates were collected by filtration to give ethyl 2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetate (syn isomer, 3.1 g.). The diisopropyl ether layer was separated from the filtrate, washed with water and an aqueous solution of sodium chloride successively, dried over magnesium sulfate and then filtered. The filtrate was evaporated in vacuo and the oily residue was treated with n-hexane. The precipitates were collected by filtration and washed with a small amount of diisopropyl ether to give the same product (0.9 g.) as above. Total yield 4.0 g.

reactant | ethyl 2-methoxyimino-2-(2-chloropropionyl)acetate | 16.0 g | CON=C(C(=O)OCC)C(C(C)Cl)=O | C8H12ClNO4
reactant | thiourea | 8.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 8.9 g | C(C)(=O)[O-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetate | 3.1 g | NC=1SC(=C(N1)C(C(=O)OCC)=NOC)C | C9H13N3O3S
